US04329347
6-[4-(2-Methyl-4-tert. butylphenyl-sulfinyl)-butoxy]-3,4-dihydro-carbostyril
Prepared analogous to Example 123 from 6-[4-(2-methyl-4-tert. butylphenyl-mercapto)-butoxy]-3,4-dihydro-carbostyril and hydrogen peroxide. Resinous substance. Rf -value: 0.54 (silica gel fluorescent plate; eluant: ethylene chloride/methanol=95/5).

reactant | 6-[4-(2-methyl-4-tert. butylphenyl-mercapto)-butoxy]-3,4-dihydro-carbostyril | CC1=C(C=CC(=C1)C(C)(C)C)SCCCCOC=1C=C2CCC(NC2=CC1)=O | C24H31NO2S
reactant | hydrogen peroxide | OO | H2O2
solvent | ethylene chloride methanol | C(CCl)Cl.CO
product | 6-[4-(2-Methyl-4-tert. butylphenyl-sulfinyl)-butoxy]-3,4-dihydro-carbostyril | CC1=C(C=CC(=C1)C(C)(C)C)S(=O)CCCCOC=1C=C2CCC(NC2=CC1)=O | C24H31NO3S
